US07449456B2
A mixture of 1.0 g of 2-chloro-4-(3-methylanilino)pyrimidine-5-carboxamide, 1.6 g of tert-butyl 4-aminobenzyl(2-morpholin-4-ylethyl)carbamate, 1.33 ml of diisopropylethylamine and 10 ml of NMP was stirred overnight at 130° C. The reaction mixture was cooled down to room temperature, and then mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, the solvent was evaporated, and the resulting residue was purified by a silica gel column chromatography (chloroform:methanol). Then, a 750 mg portion of 780 mg of the resulting compound was stirred overnight at room temperature in a mixed solution of 75 ml methanol and 30 ml 6 M hydrochloric acid. The reaction mixture was concentrated, and then the resulting crystals were washed with methanol to obtain 510 mg of 4-[(3-methylphenyl)amino]-2-[(4-{[(2-morpholin-4-ylethyl)amino]methyl}phenyl)amino]pyrimidine-5-carboxamide trihydrochloride as colorless crystals.

reactant | 2-chloro-4-(3-methylanilino)pyrimidine-5-carboxamide | 1.0 g | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | C12H11ClN4O
reactant | tert-butyl 4-aminobenzyl(2-morpholin-4-ylethyl)carbamate | 1.6 g | NC1=CC=C(CN(C(OC(C)(C)C)=O)CCN2CCOCC2)C=C1 | C18H29N3O3
reactant | diisopropylethylamine | 1.33 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NMP | 10 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-[(3-methylphenyl)amino]-2-[(4-{[(2-morpholin-4-ylethyl)amino]methyl}phenyl)amino]pyrimidine-5-carboxamide trihydrochloride | 510 mg | Cl.Cl.Cl.CC=1C=C(C=CC1)NC1=NC(=NC=C1C(=O)N)NC1=CC=C(C=C1)CNCCN1CCOCC1 | InChI=1S/C25H31N7O2.3ClH/c1-18-3-2-4-21(15-18)29-24-22(23(26)33)17-28-25(31-24)30-20-7-5-19(6-8-20)16-27-9-10-32-11-13-34-14-12-32;;;/h2-8,15,17,27H,9-14,16H2,1H3,(H2,26,33)(H2,28,29,30,31);3*1H
